US07053089B2
4-(Pyrazin-2-ylaminomethyl)-piperidine-1-carboxylic acid benzyl ester
Benzyl 4-formyl-1-piperidinecarboxylate (P. E. Maligres, Tetrahedron, 53(32):10983–10992(1997)) (100 mg, 0.40 mmol) and aminopyrazine (46 mg, 0.48 mmol) were dissolved in toluene under N2 and was heated to reflux under Dean Stark conditions for 18 h. The volatiles were removed in vacuo and the residue taken up in ethanol and treated with solid NaBH4 (76 mg, 2.00 mmol) in small portions. The reaction aged at 20° C. for 1 h then was quenched with 2N HCl. The reaction was basified with 1M NaOH and was extracted with ethyl acetate (2×). The combined organics were dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue was purified by reverse phase HPLC to give the title compound as a yellow oil.

reactant | Benzyl 4-formyl-1-piperidinecarboxylate | 0.40 mmol, 100 mg | C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | aminopyrazine | 0.48 mmol, 46 mg | NC1=NC=CN=C1 | C4H5N3
reactant | NaBH4 | 2.00 mmol, 76 mg | [BH4-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(Pyrazin-2-ylaminomethyl)-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=CN=C1 | C18H22N4O2
